US06348474B1
1-(2,4-Dichlorobenzyl)-7-(ethoxycarbonyl)-3-methyl-2(1H)-quinoxalinone
A mixture of ethyl 4-amino-3-(2,4-dichlorobenzylamino)benzoate (1.90 g) and methyl pyruvate (0.55 ml) in toluene (15 ml) was heated under reflux for 1 hr. The reaction mixture was concentrated. The residue was washed with methanol and dried to give the object compound (0.50 g) as yellow crystals.

reactant | ethyl 4-amino-3-(2,4-dichlorobenzylamino)benzoate | 1.90 g | NC1=C(C=C(C(=O)OCC)C=C1)NCC1=C(C=C(C=C1)Cl)Cl | C16H16Cl2N2O2
reactant | methyl pyruvate | 0.55 ml | C(C(=O)C)(=O)OC | C4H6O3
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2,4-Dichlorobenzyl)-7-(ethoxycarbonyl)-3-methyl-2(1H)-quinoxalinone | 0.50 g | ClC1=C(CN2C(C(=NC3=CC=C(C=C23)C(=O)OCC)C)=O)C=CC(=C1)Cl | C19H16Cl2N2O3
